US09351972B2
Under nitrogen atmosphere, 2-(t-butyl-dimethylsilanyl)amino-4-chloro-7-i-propyl-pyrrolo[2,3-d]pyrimidine (5.7 g, 17.6 mmol) and 1-iodopropane (4.5 g (26.4 mmol) were dissolved in DMF (20 mL). The reaction mixture was cooled to 0° C. with vigorous stirring, and NaH (1.06 g of a 60% dispersion in mineral oil, 26.4 mmol) of (60%) was added. The mixture was stirred for 10 min, and then water (50 mL) was slowly added to quench the reaction. The mixture was extracted with EtOAc (300 mL) and the organic layer was washed with water (50 mL) and then with a brine solution (50 mL), and lastly, dried over anhydrous Na2SO4. After evaporation of the solvents, a yellow oily residue was isolated (6.5 g). The residue was dissolved in Et2O (50 mL), concentrated hydrochloric acid (10 mL) was added at 0° C. with stirring, and the mixture was stirred for an additional 10 min. After the reaction was completed, the solution was extracted with EtOAc (200 mL) and 1N NaOH (200 mL). The organic layer was washed with H2O (150 mL) and then with a brine solution (150 mL) and dried over Na2SO4. The solvents in vacuo and the residue was purified by flash column chromatography (PE/EtOAc=10/1 to 5/1) to yield 2-(n-propyl)amino-4-chloro-7-i-propyl-pyrrolo[2,3-d]pyrimidine (CXXXIV, 4.5 g, !00%) as a yellow solid. LCMS (ESI) m/z=253 (M+H)+.

reactant | 2-(t-butyl-dimethylsilanyl)amino-4-chloro-7-i-propyl-pyrrolo[2,3-d]pyrimidine | 17.6 mmol, 5.7 g | [Si](C)(C)(C(C)(C)C)NC=1N=C(C2=C(N1)N(C=C2)C(C)C)Cl | C15H25ClN4Si
reactant | 1-iodopropane | ICCC | C3H7I
reactant | NaH | [H-].[Na+]
reactant | hydrochloric acid | 10 mL | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 50 mL | CCOCC | C4H10O
solvent | water | 50 mL | O | H2O
product | 2-(n-propyl)amino-4-chloro-7-i-propyl-pyrrolo[2,3-d]pyrimidine | 4.5 g | C(CC)NC=1N=C(C2=C(N1)N(C=C2)C(C)C)Cl | C12H17ClN4
